US07655679B2
A mixture of 500 mg 4-(2-Amino-ethyl)-2-methyl-benzonitrile trifluoro acetate and 756 mg potassium carbonate were stirred in 10 ml acetonitrile at 80° C. for fifteen minutes. Then 279 mg 1-bromo-3-methoxypropane, dissolved in 5 ml acetonitrile, were added dropwise at 80° C. The reaction mixture was stirred under micro wave irradiation at 120° C. for one hour. The cooled reaction mixture was filtered through a pad of celite to remove the salt. Then the solvent was removed in vacuo. The residue was purified by RP-HPLC to obtain 268 mg 4-[2-(3-Methoxy-propylamino)-ethyl]-2-methyl-benzonitrile as its trifluoroacetate salt.

reactant | 4-(2-Amino-ethyl)-2-methyl-benzonitrile trifluoro acetate | 500 mg | FC(C(=O)O)(F)F.NCCC1=CC(=C(C#N)C=C1)C
reactant | potassium carbonate | 756 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-methoxypropane | 279 mg | BrCCCOC | C4H9BrO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 4-[2-(3-Methoxy-propylamino)-ethyl]-2-methyl-benzonitrile | 268 mg | COCCCNCCC1=CC(=C(C#N)C=C1)C | C14H20N2O
